US05484880
To a four necked flask equipped with a thermometer, reflux condenser and stirrer, 400 g of N,N-dimethylformamide (DMF), 40 g of toluene, 80 g (0.47 mol) of p-phenylphenol, 86.9 g (0.517 mol) of m-dinitrobenzene, and 35.9 g (0.26 mol) of potassium carbonate were charged. The mixture was heated to 140° C. with stirring and aged at 140° C. for 15 hours. After finishing the reaction, the reaction mixture was cooled to 100° C. and filtered to remove inorganic salts. The filtrate was incorporated with 300 g of water and cooled to room temperature to crystallize the desired product. The precipitated crystals were filtered and recrystallized from a mixture of 380 g of DMF and 100 g of water to obtain 96 g (70% yield) of 4-(3-nitrophenoxy)-1,1'-biphenyl (NPBP).

reactant | N,N-dimethylformamide | 400 g | CN(C=O)C | C3H7NO
reactant | p-phenylphenol | 0.47 mol, 80 g | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | m-dinitrobenzene | 0.517 mol, 86.9 g | [N+](=O)([O-])C1=CC(=CC=C1)[N+](=O)[O-] | C6H4N2O4
reactant | potassium carbonate | 0.26 mol, 35.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 40 g | C1(=CC=CC=C1)C | C7H8
product | 4-(3-nitrophenoxy)-1,1'-biphenyl | 96 g, 70% yield | [N+](=O)([O-])C=1C=C(OC2=CC=C(C=C2)C2=CC=CC=C2)C=CC1 | C18H13NO3
